US07910740B2
1347 mg (3.05 mmol) 2-[3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid tert-butyl ester was suspended in methylene chloride (30.5 ml) and 2M HCl in diethyl ether (15.3 ml) was added at room temperature. Initially a clear solution was obtained and then a solid precipitated. The reaction was stirred at room temperature over night. The reaction was diluted with diethyl ether, stirred for 15 minutes and the solid was filtered off, washed with diethyl ether and dried to yield 1370 mg (100%) [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-(4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridin-2-yl)-amine trihydrochloride as a light yellow solid. MS ISP (m/e): 342.1 (100) (M+H)+. 1H NMR (DMSO-D6, 250 MHz): δ (ppm)=10.91 (s, 1H), 9.68 (br, 2H), 9.31 (s, 1H), 7.66 (s, 2H), 7.48 (d, 1H), 7.45 (d, 1H), 4.22 (br s, 2H), 3.84 (s, 3H), 3.38 (m, 2H), 2.88 (m, 2H), 2.35 (s, 3H).

reactant | 2-[3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid tert-butyl ester | 3.05 mmol, 1347 mg | C(C)(C)(C)OC(=O)N1CC2=C(CC1)N=C(S2)NC2=CC(=C(C=C2)N2C=NC(=C2)C)OC | C22H27N5O3S
reactant | HCl | 2M | Cl | ClH
solvent | methylene chloride | 30.5 ml | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 15.3 ml | C(C)OCC | C4H10O
product | [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-(4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridin-2-yl)-amine trihydrochloride | 1370 mg, 100% | Cl.Cl.Cl.COC=1C=C(C=CC1N1C=NC(=C1)C)NC=1SC=2CNCCC2N1 | InChI=1S/C17H19N5OS.3ClH/c1-11-9-22(10-19-11)14-4-3-12(7-15(14)23-2)20-17-21-13-5-6-18-8-16(13)24-17;;;/h3-4,7,9-10,18H,5-6,8H2,1-2H3,(H,20,21);3*1H
